US09085570B2
A solution of methyl 4-(5-methyl-4-((4-(morpholinomethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoate (1 g, 2.13 mmol, 1.00 equiv) in 6N hydrochloric acid (40 mL) was refluxed for 8 h. The reaction mixture was cooled to room temperature naturally and then diluted with 100 mL of water/ice. The precipitate was collected by filtration, washed with 2×20 mL of water and dried in a vacuum oven to give 0.7 g (72%) of 4-(5-methyl-4-((4-(morpholinomethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoic acid as a white solid.

reactant | methyl 4-(5-methyl-4-((4-(morpholinomethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoate | 2.13 mmol, 1 g, 1.00 equiv | CC1=C(N=C(O1)C1=CC=C(C(=O)OC)C=C1)CS(=O)(=O)C1=CC=C(C=C1)CN1CCOCC1 | C24H26N2O6S
solvent | hydrochloric acid | 6N, 40 mL | Cl | ClH
product | 4-(5-methyl-4-((4-(morpholinomethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoic acid | 0.7 g, 72% | CC1=C(N=C(O1)C1=CC=C(C(=O)O)C=C1)CS(=O)(=O)C1=CC=C(C=C1)CN1CCOCC1 | C23H24N2O6S
